US07592347B2
(S)-1-Isopropyl-4-[1-(tert-butoxycarbonyl)-piperidine-4-carbonyl]-3-methylpiperazine (D22)
(S)-1-[1-(tert-Butoxycarbonyl)-piperidine-4-carbonyl]-2-methylpiperazine (D21)(0.13 g), 2-iodopropane (0.08 ml) and potassium carbonate (0.1 g) in acetonitrile (2 ml) were heated at 120° C. in an Emerys Optimiser microwave for 45 min. The mixture was then filtered and evaporated. The crude product was redissolved in DCM (30 ml) and washed with saturated sodium hydrogen carbonate solution (3×20 ml) and brine (20 ml). The organic layer was dried (MgSO4) and evaporated to give the title compound (D22) as a clear oil (0.11 g)

reactant | (S)-1-[1-(tert-Butoxycarbonyl)-piperidine-4-carbonyl]-2-methylpiperazine | 0.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1[C@H](CNCC1)C | C16H29N3O3
reactant | 2-iodopropane | 0.08 ml | IC(C)C | C3H7I
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (S)-1-Isopropyl-4-[1-(tert-butoxycarbonyl)-piperidine-4-carbonyl]-3-methylpiperazine | 0.11 g | C(C)(C)N1C[C@@H](N(CC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H35N3O3
